US05817693
d) Ethyl 3-(4-t-Butyldimethylsiloxyphenyl)-1-oxoindene-2-carboxylate
To a solution of ethyl(2RS,3SR)-3-(4-t-butyldimethylsiloxyphenyl)-1-oxoindane-2-carboxylate (130 mg, 0.32 mmol) in CH2Cl2 (3 ml) under an argon atmosphere was added 2,3-dichloro-5,6-dicyano-1,4-benzoquinone (80 mg, 0.35 mmol). The resulting mixture was stirred for 2.5 h. Aqueous NaHSO3 and EtOAc were added, and the mixture was stirred for 5 min. The aqueous phase was separated and extracted with EtOAc, and the combined organic extracts were washed successively with aqueous NaHCO3, H2O and saturated aqueous NaCl and dried. The solvent was removed in vacuo, and the residue was purified by flash chromatography on silica gel to afford the title compound (110 mg, 85%).

reactant | ethyl(2RS,3SR)-3-(4-t-butyldimethylsiloxyphenyl)-1-oxoindane-2-carboxylate | 0.32 mmol, 130 mg | O([Si](C)(C)C(C)(C)C)C1=CC=C(C=C1)C1C(C(C2=CC=CC=C12)=O)C(=O)OCC | C24H30O4Si
reactant | 2,3-dichloro-5,6-dicyano-1,4-benzoquinone | 0.35 mmol, 80 mg | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
reactant | NaHSO3 | OS(=O)[O-].[Na+]
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | CH2Cl2 | 3 ml | C(Cl)Cl | CH2Cl2
product | Ethyl 3-(4-t-Butyldimethylsiloxyphenyl)-1-oxoindene-2-carboxylate | 110 mg, 85% | O([Si](C)(C)C(C)(C)C)C1=CC=C(C=C1)C1=C(C(C2=CC=CC=C12)=O)C(=O)OCC | C24H28O4Si
